US07585885B2
(S)-2-sec-Butylamino-6-(2-oxopropyl)-isonicotinic acid
Dissolve (S)-2-sec-butylamino-6-(2-oxopropyl)-isonicotinic acid methyl ester (50 mg, 0.19 mmol) in THF (2 mL). Slowly add 1 N lithium hydroxide (0.28 mL) and stir overnight at room temperature. Acidify the mixture to about pH=6 by 5 N HCl and concentrate to near dryness. Dilute with ethyl acetate (10 mL) and wash the organic layer with saturated aqueous sodium chloride. Dry (magnesium sulfate) and concentrate to give the title compound as a solid.

reactant | (S)-2-sec-butylamino-6-(2-oxopropyl)-isonicotinic acid methyl ester | 0.19 mmol, 50 mg | COC(C1=CC(=NC(=C1)CC(C)=O)N[C@@H](C)CC)=O | C14H20N2O3
reactant | lithium hydroxide | 1 N, 0.28 mL | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-sec-Butylamino-6-(2-oxopropyl)-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)CC(C)=O | C13H18N2O3
